US06537948B1
0.4 g of sodium hydride was added to a mixture of 1.59 g of 2-chloro-3-nitropyridine, 0.95 g of methyl glycolate and 10 ml of 1,4-dioxane at 10° C. The mixture was stirred at room temperature for 2 hours, then, the reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 1.5 g of 2-(methoxycarbonyl)methoxy-3-nitropyridine.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 2-chloro-3-nitropyridine | 1.59 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | methyl glycolate | 0.95 g | C(CO)(=O)OC | C3H6O3
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(methoxycarbonyl)methoxy-3-nitropyridine | 1.5 g | COC(=O)COC1=NC=CC=C1[N+](=O)[O-] | C8H8N2O5
